US07423030B2
43.2. 4-(4-Methoxyphenyl)-6-methyl-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting unpurified 2-(4-methoxybenzoyl)-4-methylbenzoic acid with hydrazine hydrate.

reactant | 2-(4-methoxybenzoyl)-4-methylbenzoic acid | COC1=CC=C(C(=O)C2=C(C(=O)O)C=CC(=C2)C)C=C1 | C16H14O4
reactant | hydrazine hydrate | O.NN
product | 4-(4-Methoxyphenyl)-6-methyl-2H-phthalazin-1-one | COC1=CC=C(C=C1)C1=NNC(C2=CC=C(C=C12)C)=O | C16H14N2O2
